US04171356
Stir a suspension of 760 mg. of lithium aluminum hydride in 50 ml. of tetrahydrofuran and to this add dropwise a solution of 2.98 gm. of 6-azido-6-deoxy-3,4di-O-benzyl-D-glucal in 30 ml. of tetrahyrofuran. Heat the mixture under reflux for 4 hours, cool and add wet ether, filter evaporate the filtrate to a residue. To the residue add 3 ml. of acetic anhydride and 10 ml. of distilled pyridine, stir for 2 hours and remove the solvent, crystallize the residue in chloroform: hexane to obtain 6-acetamido-6-deoxy-3,4-di-O-benzyl-D-glucal [α]26D - 41.8° (EtOH); pmr (CDCl3) δ 1.86 (3H, s, COCH3), 3.65 (2H, m, -CH2 -N), 4.6 (2H, m, ArCH2), 4.75 (2H, m, Ar-CH2), 4.9 (1H, dd, J=3, 6Hz, H-2), 6.45 (1H, dd, J=1.5, 6Hz, H-1); ν max (nujol) 3250, 1640 cm-1.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 6-azido-6-deoxy-3,4di-O-benzyl-D-glucal | N(=[N+]=[N-])C[C@@H]1[C@H]([C@@H](C=CO1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C20H21N3O3
solvent | ether | CCOCC | C4H10O
product | 6-acetamido-6-deoxy-3,4-di-O-benzyl-D-glucal | C(C)(=O)NC[C@@H]1[C@H]([C@@H](C=CO1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H25NO4
